US06586423B2
N-(5-Bromo-thiazol-2-yl)-N-pyridin-2-yl-acetamide (5-5)
To a flask containing (5-Bromo-thiazol-2-yl)-pyridin-2-yl-amine (5-4, 4.58 g, 17.9 mmol was added 30 mL acetic anhydride. The suspension was then heated to 100° C. After about 1.5 hours, the acetic anhydride and acetic acid was removed under reduced pressure, heating the bath to 70° C. Two 70 mL portions of toluene were also added for azeotropic distillation. The product was obtained as a tan colored precipitate. 1H NMR (DMSO-d6): δ8.65 (d, 1H, J=3.9 Hz), 8.09 (t, 1H, J=8.6 Hz), 7.67 (d, 1H, J=8 Hz), 7.59 (t, 1H, J=6.6 Hz), 7.47 (s, 1H). mp 132-138° C.

reactant | (5-Bromo-thiazol-2-yl)-pyridin-2-yl-amine | BrC1=CN=C(S1)NC1=NC=CC=C1 | C8H6BrN3S
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(5-Bromo-thiazol-2-yl)-N-pyridin-2-yl-acetamide | BrC1=CN=C(S1)N(C(C)=O)C1=NC=CC=C1 | C10H8BrN3OS
